US06239074B1
Methyl 4-isothiocyanatothiophen-3-carboxylate
19.4 g of methyl 4-aminothiophen-3-carboxylate hydrochloride were added to a suspension of 7.7 ml of thiophosgene and 18.5 g of sodium bicarbonate in 70 ml of water and 200 ml of dichloromethane at room temperature in the course of 30 minutes, and stirring was carried out for 1 hour at room temperature. After separation of the phases, the aqueous phase was extracted once with dichloromethane and the combined organic phases were washed once with water, dried over sodium sulfate and evaporated down.

reactant | methyl 4-aminothiophen-3-carboxylate hydrochloride | 19.4 g | Cl.NC=1C(=CSC1)C(=O)OC
reactant | thiophosgene | 7.7 ml | C(=S)(Cl)Cl | CCl2S
reactant | sodium bicarbonate | 18.5 g | C([O-])(O)=O.[Na+]
solvent | water | 70 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methyl 4-isothiocyanatothiophen-3-carboxylate | N(=C=S)C=1C(=CSC1)C(=O)OC | C7H5NO2S2
